US08492378B2
[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]methanol
To a solution of methyl 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoate (408 mg, 1.22 mmol) in tetrahydrofuran (35 mL) was added lithium aluminum hydride (46.3 mg, 1.22 mmol) at room temperature, and the resulting mixture was stirred for 10 min. Sodium sulfate decahydrate (393 mg, 1.22 mmol) was added to the reaction mixture, and the mixture was further stirred at room temperature for 1 hr. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (tetrahydrofuran) and recrystallized from hexane/tetrahydrofuran to give the title compound (321 mg, yield 86%) as colorless crystals.

reactant | methyl 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoate | 1.22 mmol, 408 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C(=O)OC)C=C2)C1 | C19H14N2O4
reactant | lithium aluminum hydride | 1.22 mmol, 46.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 1.22 mmol, 393 mg | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | [4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]methanol | 321 mg, yield 86% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)CO)C1 | C18H14N2O3
